US05767116
A stirred mixture of 1-[1-(2-methoxyphenyl)piperid-4-yl]methylamine (0.84 g, prepared in a similar manner to that described in Example 2), (R)-1,4-benzodioxan-2-ylmethyl toluene-4-sulphonate (1.2 g), potassium carbonate (1 g), and potassium iodide (catalytic amount) in acetonitrile (50 ml) was heated under reflux for 90 hours. The solvent was removed in vacuo and the residue diluted with ethyl acetate (100 ml). The product was extracted into hydrochloric acid (5M, 3×70 ml) and the extracts combined and basified by the addition of aqueous sodium hydroxide solution (5M). The product was extracted into ethyl acetate (3×150 ml), and the combined extracts were washed with water (2×100 ml), dried over magnesium sulphate and the solvent removed in vacuo. The residue was purified by flash chromatography over silica using ethyl acetate as the eluant. Appropriate fractions were combined and the solvent removed in vacuo to leave a yellow oil which crystallised on standing. The product was then recrystallised from ethyl acetate to yield (S)-(-)-N-(1,4-benzodioxan-2-ylmethyl)-1-[1-(2-methoxyphenyl)-piperid-4-yl]methylamine as light brown crystals (0.41 g), m.p. 78°-79° C., [μ]D25 -27.0° (c=1.0, CH2Cl2)

reactant | 1-[1-(2-methoxyphenyl)piperid-4-yl]methylamine | COC1=C(C=CC=C1)N1CCC(CC1)CN | C13H20N2O
reactant | (R)-1,4-benzodioxan-2-ylmethyl toluene-4-sulphonate | 1.2 g | C1(=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC2=C(O1)C=CC=C2)C | C16H16O5S
reactant | potassium carbonate | 1 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | (S)-(-)-N-(1,4-benzodioxan-2-ylmethyl)-1-[1-(2-methoxyphenyl)-piperid-4-yl]methylamine | 0.41 g | O1[C@H](COC2=C1C=CC=C2)CNCC2CCN(CC2)C2=C(C=CC=C2)OC | C22H28N2O3
